US07030139B2
50B: N-[2-amino-5-[methyl[[isopropylamino]carbonyl]amino]phenyl]-4-ethoxy-benzeneacetamide
A mixture of N-[5-[methyl[[isopropylamino]carbonyl]amino]-2-nitrophenyl]4-ethoxy-benzeneacetamide (190 mg, 0.46 mmol) and 10% Pd/C in EtOAc (5.0 mL) was hydrogenated for 4 hours at 30 psi. The contents were filtered through Celite, and the Celite was washed with EtOAc (2×10.0 mL). The solvent was removed in vacuo to provide the title compound (170 mg, 99%), which was used without further purification. 1HNMR (400 MHz, CDCl3): δ 0.98 (d, J=6.5 Hz, 6H), 1.38 (t, J=7.1 Hz, 3H), 3.09 (s, 3H), 3.69 (s, 2H), 3.86 (spt, J=6.7 Hz, 1H), 3.99 (q, J=7.0 Hz, 2H), 4.11–4.13 (m, 1H), 6.71 (d, J=8.4 Hz, 1H), 6.82 (dd, J=2.4 Hz, J=8.4 Hz, 1H), 6.87 (d, J=8.6 Hz, 2H), 6.96 (d, J=2.3 Hz, 1H), 7.24 (d, J=8.6 Hz, 2H), 7.58 (s, 1H). MS (ESI) (M+H)+=385. 50C: N-[2-(4-ethoxybenzyl)-1-[(2S)-2-pyrrolidinylmethyl]-1H-benzimidazol-5-yl]-N′-N-(1-isopropyl)urea

reactant | N-[5-[methyl[[isopropylamino]carbonyl]amino]-2-nitrophenyl]4-ethoxy-benzeneacetamide | 0.46 mmol, 190 mg | CN(C=1C=CC(=C(C1)NC(CC1=CC=C(C=C1)OCC)=O)[N+](=O)[O-])C(=O)NC(C)C | C21H26N4O5
solvent | EtOAc | 5.0 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | N-[2-amino-5-[methyl[[isopropylamino]carbonyl]amino]phenyl]-4-ethoxy-benzeneacetamide | 170 mg, 99% | NC1=C(C=C(C=C1)N(C(=O)NC(C)C)C)NC(CC1=CC=C(C=C1)OCC)=O | C21H28N4O3
